US04029802
To 120 parts of N,N-dimethylformamide was slowly added 5 parts of phosphorous oxychloride with stirring and ice-cooling. Then 10 parts of 5,5'-[(2-chlorotrimethylene) dioxy]bis[4-oxo-4H-1-benzopyran-2-carboxamide] were added to the solution, in small quantities, and the reaction mixture was stirred at room temperature for 60 hours. The resulting dark solution was poured into 500 parts of ice/water and the precipitated solid was filtered, washed with water and dried to give 6.8 parts of a brown powder. Crystalisation of this product from a mixture of ethanol and N,N-dimethylformamide gave 4.6 parts of 5,5'-[(2-chlorotrimethylene)dioxy]bis[4-oxo-4H-1-benzopyran-2-carbonitrile] as white crystals, m.p. 185° C. (decomp.), giving a positive Beilstein's halogen test.

reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5,5'-[(2-chlorotrimethylene) dioxy]bis[4-oxo-4H-1-benzopyran-2-carboxamide] | ClC(COC1=CC=CC2=C1C(C=C(O2)C(=O)N)=O)COC2=CC=CC1=C2C(C=C(O1)C(=O)N)=O | C23H17ClN2O8
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5,5'-[(2-chlorotrimethylene)dioxy]bis[4-oxo-4H-1-benzopyran-2-carbonitrile] | ClC(COC1=CC=CC2=C1C(C=C(O2)C#N)=O)COC2=CC=CC1=C2C(C=C(O1)C#N)=O | C23H13ClN2O6
